US08247429B2
N-[2-(5-fluoro-2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl)ethyl]acetamide
To a solution of N-[2-(5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide (82.0 mg, 0.300 mmol) in methanol (3 mL) was added palladium-carbon powder (8.2 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 32 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (NH, methanol/ethyl acetate=0/100→5/95) to give the title compound (63.9 mg, yield 77%).

reactant | N-[2-(5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide | 0.300 mmol, 82.0 mg | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CCNC(C)=O | C15H16FN3O
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium-carbon | 8.2 mg | [C].[Pd]
product | N-[2-(5-fluoro-2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl)ethyl]acetamide | 63.9 mg, yield 77% | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)CCNC(C)=O | C15H18FN3O
